*
C1 N033 N032 1µ
C2 N034 N033 2µ
C3 N035 N034 3µ
C4 N036 N035 4µ
C5 N037 N036 5µ
R1 N032 N001 100
C6 N038 N037 1µ
C7 N039 N038 2µ
C8 N040 N039 3µ
C9 N041 N040 4µ
C10 0 N041 5µ
V1 0 N001 SINE(0 10 1k)
C11 N030 N031 1µ
C12 N029 N030 2µ
C13 N028 N029 3µ
C14 N027 N028 4µ
C15 N026 N027 5µ
R2 N031 0 100
C16 N025 N026 1µ
C17 N024 N025 2µ
C18 N023 N024 3µ
C19 N022 N023 4µ
C20 N001 N022 5µ
C21 N013 N012 1µ
C22 N014 N013 2µ
C23 N015 N014 3µ
C24 N016 N015 4µ
C25 N017 N016 5µ
R3 N012 N001 100
C26 N018 N017 1µ
C27 N019 N018 2µ
C28 N020 N019 3µ
C29 N021 N020 4µ
C30 0 N021 5µ
C31 N010 N011 1µ
C32 N009 N010 2µ
C33 N008 N009 3µ
C34 N007 N008 4µ
C35 N006 N007 5µ
R4 N011 0 100
C36 N005 N006 1µ
C37 N004 N005 2µ
C38 N003 N004 3µ
C39 N002 N003 4µ
C40 N001 N002 5µ
.tran 0 1ms 0 1us
.backanno
.end
